US04912107
3.5 g (10.2 mmole) 1,3-dihydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole and 9.5 g (36.2 mmole) triphenylphosphine are heated under reflux for 16 hours in 100 ml 2,4,6-collidine. The solvent is distilled off in a vacuum and the residue chromatographed on silica gel with toluene/ethyl acetate 3:1. The fraction with the Rf 0.3 is isolated and recrystallized from cyclohexane/acetone. One obtains 1,2,3,6-tetrahydro-1,3-dioxo-4-phenylpyrrolo[3,4-c]carbazole in the form of yellow crystals of the mp 262°-264° C.

reactant | 1,3-dihydro-4-(2-nitrophenyl)-1,3-dioxo-7-phenyl-2H-isoindole | 10.2 mmole, 3.5 g | [N+](=O)([O-])C1=C(C=CC=C1)C1=C2C(NC(C2=C(C=C1)C1=CC=CC=C1)=O)=O | C20H12N2O4
reactant | triphenylphosphine | 36.2 mmole, 9.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | 2,4,6-collidine | 100 ml | N1=C(C=C(C=C1C)C)C | C8H11N
product | 1,2,3,6-tetrahydro-1,3-dioxo-4-phenylpyrrolo[3,4-c]carbazole | O=C1NC(C=2C(=CC=3NC=4C=CC=CC4C3C21)C2=CC=CC=C2)=O | C20H12N2O2
